US05854268
3. 4-(4-Fluorobenzylsulfinyl)piperidine
Using a similar method to that described in Example 108, step 2, 1-(tert-butoxycarbonyl)-4-(4-fluorobenzylsulfinyl)piperidine (1.524 g, 4.46 mmol) was reacted with 90% formic acid (15ml) to give 1.0276 g (95%) of the title compound as a white solid. δH (250 MHz, CDCl3) 1.47 (2H, m), 1.82 (2H, m), 2.49 (2H, m), 2.69 (1H, tt, J=4.0 and 11.8 Hz), 3.03 (2H, m), 3.88 (1H, d, J=13.0 Hz), 4.11 (1H, d, J=13.0 Hz), 7.20 (2H, t, J=8.9 Hz), 7.37 (2H, m). m/e (ES+) 242 (M+H)+.

reactant | 1-(tert-butoxycarbonyl)-4-(4-fluorobenzylsulfinyl)piperidine | 4.46 mmol, 1.524 g | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)CC1=CC=C(C=C1)F | C17H24FNO3S
solvent | formic acid | 15ml | C(=O)O | CH2O2
product | 4-(4-Fluorobenzylsulfinyl)piperidine | 1.0276 g, 95% | FC1=CC=C(CS(=O)C2CCNCC2)C=C1 | C12H16FNOS
